US07935848B2
1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)-4-phenylbutan-1-one
The title compound was prepared following the general procedure of Example 1 starting from (1R,2S,5R)-2-isopropyl-5-methylcyclohexanecarbaldehyde and (3-phenylpropyl)magnesium bromide.

reactant | (1R,2S,5R)-2-isopropyl-5-methylcyclohexanecarbaldehyde | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)C=O | C11H20O
reactant | (3-phenylpropyl)magnesium bromide | C1(=CC=CC=C1)CCC[Mg]Br
product | 1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)-4-phenylbutan-1-one | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)C(CCCC1=CC=CC=C1)=O | C20H30O
